US07220862B2
(±)-5-(2-Amino-2-methoxycarbonyl-ethyl)-indazole-1-carboxylic acid tert-butyl ester
A mixture of 5-(2-benzyloxycarbonylamino-2-methoxycarbonyl-vinyl)-indazole-1-carboxylic acid tert-butyl ester (524 mg, 1.16 mmol) and 10% palladium on carbon (60 mg) in methanol (20 mL) was shaken for 4.5 h under 50 psi hydrogen gas using a Parr hydrogenator. The reaction mixture was evacuated and purged with nitrogen. Then, the reaction mixture was filtered through a pad of celite and the pad was rinsed with several portions of methanol. The methanol filtrate was evaporated to give the title compound (351 mg, 95%). 1H-NMR (CDCl3, 500 MHz) δ 8.12–8.10 (m, 2H), 7.55 (br s, 1H), 7.37 (dd, J=8.9, 1.5 Hz, 1H), 3.77–3.75 (m, 1H), 3.70 (s, 3H), 3.19 (dd, J=13.7, 5.5 Hz, 1H), 2.99 (dd, J=13.7, 8.0 Hz, 1H), 1.72 (s, 9H). Mass spec.: 320 (MH)+.

reactant | 5-(2-benzyloxycarbonylamino-2-methoxycarbonyl-vinyl)-indazole-1-carboxylic acid tert-butyl ester | 1.16 mmol, 524 mg | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)C=C(C(=O)OC)NC(=O)OCC1=CC=CC=C1 | C24H25N3O6
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 60 mg | [Pd] | Pd
solvent | methanol | 20 mL | CO | CH4O
product | (±)-5-(2-Amino-2-methoxycarbonyl-ethyl)-indazole-1-carboxylic acid tert-butyl ester | 351 mg, 95% | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)CC(C(=O)OC)N | C16H21N3O4
